US04426524
Using a Parr hydrogenator, 30.0 g (0.143 mol) of 2-methyl-3-nitrophenylmethyl acetate in 250 mL of methanol was hydrogenated in the presence of 0.5 g of palladium oxide on charcoal to give 25.0 g of 3-amino-2-methylphenylmethyl acetate.

reactant | 2-methyl-3-nitrophenylmethyl acetate | 0.143 mol, 30.0 g | C(C)(=O)OCC1=C(C(=CC=C1)[N+](=O)[O-])C | C10H11NO4
solvent | methanol | 250 mL | CO | CH4O
catalyst | palladium oxide | 0.5 g | [Pd]=O
product | 3-amino-2-methylphenylmethyl acetate | 25.0 g | C(C)(=O)OCC1=C(C(=CC=C1)N)C | C10H13NO2
